US04289768
A solution of 14 g of SO2Cl2 in 65 ml of CH2Cl2 is added dropwise over the course of 1 hour and at 10° to a mixture of 35.6 g of 2-chloro-10-[3-(imidazol-1-yl)-propionyl]-phenothiazine, 8.2 g of silica gel, 8.2 ml of water and 850 ml of CH2Cl2. Stirring is continued for 2 hours at 10°; 100 ml of water is added dropwise and the mixture is rendered alkaline by adding NaHCO3. Working up in the customary manner gives 2-chloro-10-[3-(imidazol-1-yl)-propionyl]-phenothiazine-5-oxide, melting point 148°-149°.

reactant | 2-chloro-10-[3-(imidazol-1-yl)-propionyl]-phenothiazine | 35.6 g | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CCN1C=NC=C1)=O | C18H14ClN3OS
reactant | water | 8.2 ml | O | H2O
reactant | water | 100 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 65 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 850 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-10-[3-(imidazol-1-yl)-propionyl]-phenothiazine-5-oxide | ClC1=CC=2N(C3=CC=CC=C3S(C2C=C1)=O)C(CCN1C=NC=C1)=O | C18H14ClN3O2S
